US07592461B2
N-(3-methyl-N-(4-((4-(4-pyridinyl)phenyl)methyl)-1,3-thiazol-2-yl)-1H-indene-2-carboxamide
Using a procedure similar to the synthesis of Example 2, 3-methyl-1H-indene-2-carboxylic acid was reacted with 2-amino-4-(4-(pyridin-4-yl)benzyl)thiazole to give Example 170. MS Found: (M+H)+=424.

reactant | 3-methyl-1H-indene-2-carboxylic acid | CC1=C(CC2=CC=CC=C12)C(=O)O | C11H10O2
reactant | 2-amino-4-(4-(pyridin-4-yl)benzyl)thiazole | NC=1SC=C(N1)CC1=CC=C(C=C1)C1=CC=NC=C1 | C15H13N3S
product | 3-methyl-N-(4-((4-(4-pyridinyl)phenyl)methyl)-1,3-thiazol-2-yl)-1H-indene-2-carboxamide | CC1=C(CC2=CC=CC=C12)C(=O)NC=1SC=C(N1)CC1=CC=C(C=C1)C1=CC=NC=C1 | C26H21N3OS
